US04155913
A solution of 0.41 g of 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-carboxylic acid ethyl ester in 6.5 ml of absolute tetrahydrofuran is added dropwise with ice-cooling and stirring to a suspension of (0.078 g) of lithium aluminium hydride in 5 ml of absolute tetrahydrofuran. After stirring for 1 hour at 5° C., there is added dropwise 0.8 ml of 0.5-N sodium hydroxide. After filtration of the solid material, the solvent is evaporated and the residue taken up in methylene chloride. The solution is washed with 0.5-N sodium hydroxide, subsequently with water and, after drying, evaporated to dryness. By crystallization of the residue from ethyl acetate, there is obtained 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol, melting point 219°-221° C.

reactant | 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-carboxylic acid ethyl ester | 0.41 g | C(C)OC(=O)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C17H12Cl2N4O2S
reactant | lithium aluminium hydride | 0.078 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 6.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)CO)C3=C(C=CC=C3)Cl | C15H10Cl2N4OS
